US09233979B2
(R)-2-methoxy-N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide (0.056 mmol) was taken up in TFA (1 ml) and the reaction mixture was stirred at room temperature for 1 h. Triethylsilane (0.009 ml, 0.056 mmol) was added drop wise, and the reaction mixture stirred for an additional 5 minutes. The mixture was concentrated, re-dissolved in DMSO (1.5 mL) and submitted for purification by mass-triggered prep. HPLC to afford (R)-2-methoxy-N-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide. TFA (15.9 mg, 0.033 mmol, 58.9% yield) as a white solid. MS ESI calc'd. For C18H21N6O3 [M+H]+ 369. found 369. 1H NMR (ppm, 600 MHz, DMSO): δ 10.62 (s, 1H); 9.28 (br s, 1H); 9.00 (s, 1H); 7.75 (s, 1H); 7.46 (s, 1H); 7.31-7.32 (m, 4H); 7.19-7.22 (m, 1H); 4.85 (t, J=7.2 Hz, 1H); 4.09 (s, 2H); 3.35 (s, 3H); 1.39 (d, J=6.9 Hz, 3H).

reactant | (R)-2-methoxy-N-(6-(3-(1-phenylethyl)ureido)-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | 0.056 mmol | COCC(=O)NC1=NN(C2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C37H34N6O3
reactant | Triethylsilane | 0.056 mmol, 0.009 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | (R)-2-methoxy-N-(6-(3-(1-phenylethyl)ureido)-1H-pyrazolo[4,3-c]pyridin-3-yl)acetamide | COCC(=O)NC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H20N6O3
